US04282253
EXAMPLE 2. DEHYDROABIETYLAMINE ACETATE
The acetate salt of dehydroabietylamine was available in the form of technical-grade compositions. One was a tan colored paste containing 70% solids and 30% water. The other was an aqueus alcoholic solution of the salt which held 50% of solids. Each water soluble amine acetate was used as obtained to prepare 5% alcoholic solutions and then diluted with ethanol for 2.5% and 1.25% solutions.

reactant | dehydroabietylamine | CC(C)C1=CC2=C(C=C1)[C@]3(CCC[C@@]([C@@H]3CC2)(C)CN)C | C20H31N
reactant | water | O | H2O
reactant | ethanol | C(C)O | C2H6O
product | DEHYDROABIETYLAMINE ACETATE | CC(C)C1=CC2=C(C=C1)[C@]3(CCC[C@@]([C@@H]3CC2)(C)CN)C.CC(=O)O | InChI=1S/C20H31N.C2H4O2/c1-14(2)15-6-8-17-16(12-15)7-9-18-19(3,13-21)10-5-11-20(17,18)4;1-2(3)4/h6,8,12,14,18H,5,7,9-11,13,21H2,1-4H3;1H3,(H,3,4)/t18-,19-,20+;/m0./s1
